* source #2
E_U1         N14447 0 VALUE {LIMIT(V(0,N14392)*1E6,-15V,+15V)}
R_R1         N14439 N14392  500 TC=0,0 
R_R2         N14392 N14447  2k TC=0,0 
V_V1         N14439 0  
+SIN 0 ? 1k 0 0 0
