* source QUESTION 4
E_U1         N14651 0 VALUE {LIMIT(V(N14606,0)*1E6,-15V,+15V)}
E_U2         N14779 0 VALUE {LIMIT(V(N14733,0)*1E6,-15V,+15V)}
R_R1         N14651 N14733  1k TC=0,0 
R_R2         N14606 N14651  2k TC=0,0 
R_R3         N14599 N14606  2k TC=0,0 
R_R4         N14628 N14606  1k TC=0,0 
R_R5         N14729 N14733  500 TC=0,0 
R_R6         N14725 N14733  2k TC=0,0 
R_R7         N14733 N14779  2k TC=0,0 
V_V1         N14599 0 2v
V_V2         N14628 0 2v
V_V3         N14729 0 2v
V_V4         N14725 0 2v
