* source RECITATION 2
E_U1         N14470 0 VALUE {LIMIT(V(0,N14449)*1E6,-15V,+15V)}
V_V1         N14445 0  AC 0
+SIN 0 2.5v 1k 0 0 0
R_R1         N14445 N14449  2k TC=0,0 
R_R2         N14449 N14470  500 TC=0,0 
