* source RECITATION 3
V_V1         N14613 0 5V
E_U1         N14708 0 VALUE {LIMIT(V(N14637,N14651)*1E6,-15V,+15V)}
R_R2         N14613 N14651  2k TC=0,0 
R_R3         N14613 N14637  3k TC=0,0 
R_R4         N14651 N14708  1k TC=0,0 
R_R5         0 N14637  500 TC=0,0 
E_U2         N15202 0 VALUE {LIMIT(V(N15305,N15094)*1E6,-15V,+15V)}
E_U3         N15130 0 VALUE {LIMIT(V(N15301,N15112)*1E6,-15V,+15V)}
E_U4         N15173 0 VALUE {LIMIT(V(N15142,N15156)*1E6,-15V,+15V)}
R_R6         0 N15094  5k TC=0,0 
R_R7         N15112 0  5k TC=0,0 
R_R8         N15130 N15112  2k TC=0,0 
R_R9         N15202 N15094  2k TC=0,0 
R_R10         N15156 N15202  3k TC=0,0 
R_R11         N15142 N15130  3k TC=0,0 
R_R12         N15142 0  2k TC=0,0 
R_R13         N15156 N15173  2k TC=0,0 
V_V2         N15305 0 7.5Vdc
V_V3         N15301 0 5Vdc
E_U5         N16054 0 VALUE {LIMIT(V(0,N16037)*1E6,-15V,+15V)}
R_R14         N16037 N16054  1k TC=0,0 
C_C1         N16033 N16037  51n  TC=0,0 
V_V4         N16033 0  
+SIN 0 170mV 1k 0 0 0
E_U6         N16388 0 VALUE {LIMIT(V(N16367,N16437)*1E6,-15V,+15V)}
R_R15         N16411 N16367  1k TC=0,0 
R_R16         N16367 N16388  3k TC=0,0 
R_R17         N16415 N16437  5k TC=0,0 
R_R18         N16437 0  2k TC=0,0 
V_V5         N16411 0 3Vdc
V_V6         N16415 0 5Vdc
